US07037931B2
A solution of phosphorus tribromide (9.31 g, 34.5 mmol) in CH2Cl2 (186 mL) was added drop-wise to a stirred solution of [1-(4-methoxy-phenyl)-5-p-tolyl-1H-pyrazol-3-yl]-methanol (7.80 g, 26.5 mmol; prepared analogously to the procedure described in Step C of Example 1) in 50 mL CH2Cl2 at 0° C. The reaction mixture was stirred for an additional 18 h at rt, and then the mixture was neutralized by addition of 40% NaOH with cooling in an ice bath. The organic layer was separated and dried over Na2SO4, and solvent was removed under reduced pressure. The residue was purified by silica gel chromatography (CH2Cl2) yielding 8.09 g (86%) of 3-bromomethyl-1-(4-methoxy-phenyl)-5-p-tolyl-1H-pyrazole. HPLC: Rt=10.38. (Method A). MS (ES+): mass calculated for C18H17BrN2O, 356.05; m/z found 357.5 [M+H]+. 1H NMR (400 MHz, CDCl3): 7.42 (s, 4H), 7.39-7.34 (m, 2H), 7.02-6.98 (m, 2H), 6.69 (s, 2H), 4.73 (s, 2H), 3.97 (s, 1H), 2.49 (s, 3H).

reactant | phosphorus tribromide | 34.5 mmol, 9.31 g | P(Br)(Br)Br | Br3P
reactant | [1-(4-methoxy-phenyl)-5-p-tolyl-1H-pyrazol-3-yl]-methanol | COC1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)C)CO | C18H18N2O2
reactant | NaOH | [OH-].[Na+]
solvent | CH2Cl2 | 186 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-bromomethyl-1-(4-methoxy-phenyl)-5-p-tolyl-1H-pyrazole | 8.09 g, 86% | BrCC1=NN(C(=C1)C1=CC=C(C=C1)C)C1=CC=C(C=C1)OC | C18H17BrN2O
